US05776983
3. (R)-N-[5-[2-Iodo-1-[(triethylsilyl)oxy]ethyl]-2-(phenylmethoxy)phenyl]methanesulfonamide
To a stirred DMF (65 mL) solution containing (R)-2-iodo-1-[4-phenylmethoxy-3-[(methylsulfonyl)amino]phenyl]ethanol (12.7 g, 28 mmol), imidazole (5.25 g, 77 mmol), and 4-dimethylaminopyridine (0.30 g, 2.46 mmol) was added triethylsilyl chloride (5.0 mL, 29.8 mmol). After 15 minutes the completed reaction was diluted with EtOAc (200 mL) and heptane (70 mL). The organic phase was washed 1×100 mL H2O, 2×100 mL aq. sat. CuSO4, 1×100 mL H2O, 1×100 mL sat. brine, and dried over Na2SO4. The filtrate was concentrated in vacuo to give 15.81 g of tan solid which was dissolved in ~125 mL CH2Cl2 and diluted with 650 mL heptane. The mixture was concentrated in vacuo at 40°-42° C. until solids were seen (~105 mL distillate were collected), cooled to ~15° C. and filtered. The collected solids were washed with heptane and dried in vacuo at 45° C. to give 11.1 g (70%) of the title compound.

reactant | DMF | 65 mL | CN(C)C=O | C3H7NO
reactant | (R)-2-iodo-1-[4-phenylmethoxy-3-[(methylsulfonyl)amino]phenyl]ethanol | 28 mmol, 12.7 g | IC[C@H](O)C1=CC(=C(C=C1)OCC1=CC=CC=C1)NS(=O)(=O)C | C16H18INO4S
reactant | imidazole | 77 mmol, 5.25 g | N1C=NC=C1 | C3H4N2
reactant | triethylsilyl chloride | 29.8 mmol, 5.0 mL | C(C)[Si](CC)(CC)Cl | C6H15ClSi
catalyst | 4-dimethylaminopyridine | 2.46 mmol, 0.30 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | heptane | 70 mL | CCCCCCC | C7H16
product | (R)-N-[5-[2-Iodo-1-[(triethylsilyl)oxy]ethyl]-2-(phenylmethoxy)phenyl]methanesulfonamide | 15.81 g | IC[C@H](O[Si](CC)(CC)CC)C=1C=CC(=C(C1)NS(=O)(=O)C)OCC1=CC=CC=C1 | C22H32INO4SSi
